US08030499B2
Step 239-1; Synthesis of 5-chloro-3-(2,6-dimethoxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one
Under nitrogen atmosphere, to a solution of 22.8 g of 1,3-dimethoxy benzene in THF (150 ml) was added dropwise a solution of 1.59 mol/L n-butyl lithium in an n-hexane solution (104 ml) over 30 minutes under ice cooling, and the reaction mixture was stirred at room temperature for one hour. The solution was cooled by ice again, 10.0 g of 5-chloroisatin and was added, and the reaction mixture was stirred at room temperature for two hours. An aqueous solution of saturated NH4Cl was added to the solution and the resulting mixture was extracted with EtOAc; the organic layer was washed with saturated brine and dried over Na2SO4, then, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60N; mobile phase: CHCl3/MeOH=50/1 to 10/1; v/v) to obtain 14.2 g of the title compound.

reactant | 1,3-dimethoxy benzene | 22.8 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-butyl lithium | 1.59 mol/L | C(CCC)[Li]
reactant | 5-chloroisatin | 10.0 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 104 ml | CCCCCC | C6H14
product | 5-chloro-3-(2,6-dimethoxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | 14.2 g | ClC=1C=C2C(C(NC2=CC1)=O)(O)C1=C(C=CC=C1OC)OC | C16H14ClNO4
